US08664200B2
Step 5: (2S)-2-(acetylamino)-N-[(1S)-1-benzyl-2-({(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}amino)-2-oxoethyl]-4-phenylbutanamide
Into a 20 mL scintillation vial was added (2S)-2-amino-N-[(1S)-1-benzyl-2-({(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}amino)-2-oxoethyl]-4-phenylbutanamide.HCl (52.0 mg, 0.0836 mmol), acetonitrile (5.20 mL, 0.0996 mol), acetic anhydride (8.68 μL, 0.092 mmol), N,N-diisopropylethylamine (36.4 μL, 0.209 mmol) and N,N-dimethylaminopyridine (0.0005 g, 0.004 mmol). The mixture was stirred overnight and the precipitate was filtered and washed with Et2O to give 0.028 g (53% yield) of product as a white solid.

reactant | (2S)-2-amino-N-[(1S)-1-benzyl-2-({(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}amino)-2-oxoethyl]-4-phenylbutanamide | N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CC1CCC1)B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C)CC1=CC=CC=C1)CCC1=CC=CC=C1 | C35H48BN3O4
reactant | HCl | 0.0836 mmol, 52.0 mg | Cl | ClH
reactant | acetonitrile | 0.0996 mol, 5.20 mL | C(C)#N | C2H3N
reactant | acetic anhydride | 0.092 mmol, 8.68 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-diisopropylethylamine | 0.209 mmol, 36.4 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | (2S)-2-(acetylamino)-N-[(1S)-1-benzyl-2-({(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}amino)-2-oxoethyl]-4-phenylbutanamide | 0.028 g, 53% yield | C(C)(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CC1CCC1)B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C)CC1=CC=CC=C1)CCC1=CC=CC=C1 | C37H50BN3O5
